US09212190B2
To a 50-mL round-bottom flask containing a solution of tert-butyl N-(1-ethyl-4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate (180 mg, 0.39 mmol, 1.00 equiv) in N,N-dimethylformamide (5 mL) was added PDC (716 mg, 1.90 mmol, 4.88 equiv) and the resulting solution was stirred for 14 hrs at 25° C. The reaction was then quenched by the addition of 20 mL of water and extracted with 3×50 mL of ethyl acetate. The combined organic layers were washed with brine, dried over sodium sulfate and concentrated under vacuum. The residue was applied onto a silica gel column with ethyl acetate/petroleum ether (1:1) to give the desired 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl]amino]-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]acetic acid (100 mg, 54%) as a colorless oil. MS (ES): m/z 476 [M+H]+.

reactant | tert-butyl N-(1-ethyl-4-[[(3R)-3-(2-hydroxyethyl)-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2(6),9,11-tetraen-12-yl]oxy]cyclohexyl)carbamate | 0.39 mmol, 180 mg, 1.00 equiv | C(C)C1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CCO)NC(OC(C)(C)C)=O | C24H35N3O4S
reactant | PDC | 1.90 mmol, 716 mg, 4.88 equiv | C1=CC=[NH+]C=C1.C1=CC=[NH+]C=C1.[O-][Cr](=O)(=O)O[Cr](=O)(=O)[O-]
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[(3R)-12-[(4-[[(tert-butoxy)carbonyl]amino]-4-ethylcyclohexyl)oxy]-7-thia-9,11-diazatricyclo[6.4.0.0[2,6]]dodeca-1(8),2 (6),9,11-tetraen-3-yl]acetic acid | 100 mg, 54% | C(C)(C)(C)OC(=O)NC1(CCC(CC1)OC1=NC=NC=2SC=3CC[C@@H](C3C12)CC(=O)O)CC | C24H33N3O5S
